US06133258
The reaction procedure of Example 11 was followed except that 900 mg (3.11 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 25 mg of lithium hydride and 440 mg of methyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 554 mg of 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (59%, recrystallized from a mixture of ether and hexane).

reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.11 mmol, 900 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | lithium hydride | 25 mg | [H-].[Li+]
reactant | methyl iodide | 440 mg | CI | CH3I
product | 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 554 mg | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1C)=O)C=CC=N2 | C14H10ClN3OS
